US05578627
To a solution of 2.3 g of 3-[2-amino-2-(3-methoxyphenyl)ethoxy]-5-chloro-1,2-benzoisoxazole in 20 ml of methylene chloride is dropwise added 22 ml of a methylene chloride solution (1.0M) of boron tribromide over 15 minutes with ice-cooling, and they are subjected to reaction at the same temperature for 30 minutes. Subsequently, insolubles are removed by filtration, and water and ethyl acetate are added to the filtrate. The pH is adjusted to 8.5 with a 10% aqueous sodium hydroxide solution, and after shaking, the crystals precipitated are collected by filtration. The organic layer of the filtrate is separated, and the organic layer is washed with a saturated saline solution and dried over anhydrous magnesium sulfate, after which the solvent is removed by distillation under reduced pressure. The crystals obtained are combined with the crystals previously obtained by filtration and dried, to obtain 2.0 g of colorless, crystalline 3-[2-amino-2-(3-hydroxyphenyl)ethoxy]-5-chloro-1,2-benzoisoxazole.

reactant | 3-[2-amino-2-(3-methoxyphenyl)ethoxy]-5-chloro-1,2-benzoisoxazole | 2.3 g | NC(COC1=NOC2=C1C=C(C=C2)Cl)C2=CC(=CC=C2)OC | C16H15ClN2O3
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1.0M, 22 ml | C(Cl)Cl | CH2Cl2
product | 3-[2-amino-2-(3-hydroxyphenyl)ethoxy]-5-chloro-1,2-benzoisoxazole | NC(COC1=NOC2=C1C=C(C=C2)Cl)C2=CC(=CC=C2)O | C15H13ClN2O3
